US05760035
In a similar manner to Example 3, a mixture of 4-(dimethylaminomethyliminomethyl)piperidine (6.42 g), 2-bromoethyl 4-fluorophenyl ether (8.3 g), triethylamine (5.3 ml) and toluene (20 ml) was heated on a steam bath for 16 hours to give 4-aminomethyl-1-[2-(4-fluorophenoxy)ethyl]piperidine as an oil.

reactant | 4-(dimethylaminomethyliminomethyl)piperidine | 6.42 g | CN(C)CN=CC1CCNCC1 | C9H19N3
reactant | 2-bromoethyl 4-fluorophenyl ether | 8.3 g | FC1=CC=C(C=C1)OCCBr | C8H8BrFO
reactant | triethylamine | 5.3 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 4-aminomethyl-1-[2-(4-fluorophenoxy)ethyl]piperidine | NCC1CCN(CC1)CCOC1=CC=C(C=C1)F | C14H21FN2O
